US08003651B2
tert-Butyl 2-(4-chlorophenyl)-3-(4-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-3-oxopropyl(isopropyl)carbamate was treated with HCl (4M in dioxane, 2 mL) in DCM (10 mL) for 6 hours to provide 2-(4-chlorophenyl)-3-(isopropylamino)-1-(4-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)propan-1-one dihydrochloride (24 mg, 99%). MS (APCI+) [M+H] +442.

reactant | tert-Butyl 2-(4-chlorophenyl)-3-(4-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-3-oxopropyl(isopropyl)carbamate | ClC1=CC=C(C=C1)C(CN(C(OC(C)(C)C)=O)C(C)C)C(=O)N1CCN(CC1)C=1C2=C(N=CN1)CC[C@H]2C | C29H40ClN5O3
reactant | HCl | 4M, 2 mL | Cl | ClH
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-chlorophenyl)-3-(isopropylamino)-1-(4-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)propan-1-one dihydrochloride | 24 mg, 99% | Cl.Cl.ClC1=CC=C(C=C1)C(C(=O)N1CCN(CC1)C=1C2=C(N=CN1)CC[C@H]2C)CNC(C)C | InChI=1S/C24H32ClN5O.2ClH/c1-16(2)26-14-20(18-5-7-19(25)8-6-18)24(31)30-12-10-29(11-13-30)23-22-17(3)4-9-21(22)27-15-28-23;;/h5-8,15-17,20,26H,4,9-14H2,1-3H3;2*1H/t17-,20?;;/m1../s1
